US09260441B2
Step B: Ethyl 5-methylamino-2-piperazin-1-yl-thiazole-4-carboxylate hydrochloride
Ethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)-5-methylamino-thiazole-4-carboxylate (196 mg, 0.529 mmol) was dissolved in a mixture of diethylether (10 ml) and ethanol (absolute, 15 ml), hydrochloric acid (4N in dioxane, 5 ml) was added and the mixture was stirred at room temperature for two days. The resulting precipitate was collected by filtration, washed with diethylether and dried under reduced pressure to give 130 mg of a white solid (0.424 mmol, yield 80) MS (multi-mode) m/z=271.1 [M+1]+.

reactant | Ethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)-5-methylamino-thiazole-4-carboxylate | 0.529 mmol, 196 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=C(N1)C(=O)OCC)NC | C16H26N4O4S
reactant | hydrochloric acid | 4N, 5 ml | Cl | ClH
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 5-methylamino-2-piperazin-1-yl-thiazole-4-carboxylate hydrochloride | 0.424 mmol, 130 mg | Cl.CNC1=C(N=C(S1)N1CCNCC1)C(=O)OCC | InChI=1S/C11H18N4O2S.ClH/c1-3-17-10(16)8-9(12-2)18-11(14-8)15-6-4-13-5-7-15;/h12-13H,3-7H2,1-2H3;1H
